US06469005B1
To a solution of 0.8 ml oxalyl chloride (9.0 mmol) in 8 ml methylenchloride at −63° C. is added in 15 minutes a solution of 0.84 ml DMSO (12.0 mmol) in 4 ml CH2Cl2. A solution of 2.6 g (6.0 mmol) of 2-(3,4-dichloro-phenyl)-2-hydroxy-N-[2-(3-methoxy-4-pent-2-ynyloxy-phenyl)-ethyl]-acetamide in 30 ml CH2Cl2 is added during 10 minutes. After 10 minutes at −65° C. a solution of 3.2 ml (24.0 mmol) triethylamine in 8 ml CH2Cl2 is added during 15 minutes. After another 15 minutes at the same temperature the mixture is hydrolysed with 6.0 ml water and allowed to warm up to room temperature. The solution is washed with solutions of KHSO4 (20%), NaHCO3 (saturated) and NaCl (saturated) After evaporation the residue is submitted to flash-chromatography (ethyl acetate 25, hexanes 75) to give the 2-(3,4-dichloro-phenyl)-N-[2-(3-methoxy-4-pent-2-ynyloxy-phenyl)-ethyl]-2-oxo-acetamide.

reactant | oxalyl chloride | 9.0 mmol, 0.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 12.0 mmol, 0.84 ml | CS(=O)C | C2H6OS
reactant | 2-(3,4-dichloro-phenyl)-2-hydroxy-N-[2-(3-methoxy-4-pent-2-ynyloxy-phenyl)-ethyl]-acetamide | 6.0 mmol, 2.6 g | ClC=1C=C(C=CC1Cl)C(C(=O)NCCC1=CC(=C(C=C1)OCC#CCC)OC)O | C22H23Cl2NO4
reactant | triethylamine | 24.0 mmol, 3.2 ml | C(C)N(CC)CC | C6H15N
solvent | methylenchloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
solvent | water | 6.0 ml | O | H2O
product | 2-(3,4-dichloro-phenyl)-N-[2-(3-methoxy-4-pent-2-ynyloxy-phenyl)-ethyl]-2-oxo-acetamide | ClC=1C=C(C=CC1Cl)C(C(=O)NCCC1=CC(=C(C=C1)OCC#CCC)OC)=O | C22H21Cl2NO4
